Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right upper extremity weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo gentleman with Type 2 DM and dementia
who presented to an OSH with acute onset R-sided hemiparesis
around 7am on the morning of presentation. He was evaluated as a
telestroke by the ___ stroke fellow and on head CT was found 
to
have a moderate-sized L parietal intraparenchymal hemorrhage. He
was transferred to ___ for further management. 

He was in his USOH this morning after waking up his morning.
Shortly after having coitus, his wife came back from the 
bathroom
to find him unable to get out of bed due to right-sided 
weakness.
He could push himself up from the bed to get up to walk. He was
quiet but was able to respond to her normally with speech
unchanged from baseline. His granddaughter, who is a ___,
instructed her mother to have him smile and they did not
appreciate any facial droop. 

He has had a mild cough for the past week but no fever or other
constitutional symptoms. He denies headache or any pain. He saw
his PCP 5 days ago for RUE paresthesias, which were new for him,
and PCP instructed him to perform some exercises (unclear
diagnosis). It seems these symptoms have improved.
 
ROS: Reviewed and negative except as indicated in HPI.

 
Past Medical History:
- Type 2 Diabetes Mellitus
- Dementia (unclear details; has been prescribed Donepezil, per
family without effect so takes it irregularly)
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T 98.1 F, HR 93, BP 117/71, RR 17, O2 99% (RA)
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to person, ~place (___), but not month or year (baseline per family). States
he is in the hospital because he has a problem with his R arm.
Somewhat inattentive. Speaks in short phrases. There were no
paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, ?delayed activation with R side of face.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii on L, no effort on R.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout.
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5    5    5   5    5    
R    0    0    0    0    0    5    4+   5   4+   5    

-Sensory: No deficits to light touch or pinprick throughout.
Extinguish R side to DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF with L hand (unable to 
perform
with R)

-Gait: Deferred

DISCHARGE PHYSICAL EXAM
========================
Vitals: afebrile, BP 91-108/50-60, HR 60-80, 90s on RA
General: Awake, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
 
Neurologic:
-Mental Status: Alert, oriented to person, ___, hospital, not
time (baseline per wife). Somewhat inattentive. Speaks in short
phrases, ___ and limited ___. Able to follow simple
commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. 
V: Facial sensation intact to light touch.
VII: No facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii on L, no effort on R.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout.
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5    5    5   5    5    
R    0    0    4    0    0    4    4    4   4    4    

-Sensory: No deficits to light touch or gentle pinch throughout.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF with L hand (deferred R)

-Gait: Deferred

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:36PM BLOOD Neuts-78.7* Lymphs-14.6* Monos-6.0 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-7.94* AbsLymp-1.47 
AbsMono-0.60 AbsEos-0.01* AbsBaso-0.04
___:36PM BLOOD ___ PTT-26.9 ___
___ 12:36PM BLOOD Plt ___
___ 12:36PM BLOOD Glucose-148* UreaN-15 Creat-0.7 Na-138 
K-4.0 Cl-102 HCO3-22 AnGap-14
___ 12:38PM BLOOD Lactate-1.8

IMAGING
=======
MR HEAD W & W/O CONTRAST Study Date of ___  
IMPRESSION
1. Left parietal intraparenchymal hematoma measuring 2.8 x 4.0 x 
2.8 cm (AP X TR X SI) with associated subarachnoid hemorrhage 
and small subdural hematoma. 
2. Fluid levels in the inferior portion of the hematoma likely 
reflect 
hyperacute blood products, concerning for active bleeding. 
3. Mild surrounding edema exhibiting mild mass effect on the 
adjacent brain parenchyma and subjacent body of the left lateral 
ventricle.  No midline shift. 
4. Small patchy area of contrast enhancement anteriorly to the 
superior aspect of the hematoma is nonspecific, felt likely to 
represent breakdown of blood brain barrier.  No evidence of 
abnormal vasculature or large draining vein to definitively 
suggest an underlying vascular malformation at this time. 
5. Hemosiderin staining along the right parietal gyri suggests 
prior 
intracranial hemorrhages.  Given suggestion of prior 
hemorrhages, this could represent sequela of amyloid angiopathy 
despite lack of prominent peripherally located microhemorrhages.

DISCHARGE LABS
==============
___ 07:10AM BLOOD WBC-7.3 RBC-4.80 Hgb-14.5 Hct-42.5 MCV-89 
MCH-30.2 MCHC-34.1 RDW-13.2 RDWSD-42.7 Plt ___
___ 07:00AM BLOOD ___ PTT-27.7 ___
___ 07:10AM BLOOD Glucose-129* UreaN-8 Creat-0.7 Na-145 
K-3.9 Cl-105 HCO3-24 AnGap-16
___ 07:10AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.3
___ 07:10AM BLOOD %HbA1c-6.8* eAG-148*
___ 07:10AM BLOOD Triglyc-90 HDL-51 CHOL/HD-2.8 LDLcalc-76
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with Type 2 DM and dementia who 
presented to an OSH with acute onset right upper extremity 
hemiparesis found to have L parietal precentral gyrus IPH.

#L parietal precentral gyrus IPH:
Right sided hemiparesis began acutely following coitus (no 
medications taken for sexual enhancement). Initial NIHSS 8. 
Found to have L parietal precentral gyrus IPH on non-contrast 
head CT. MRI with left parietal intraparenchymal hematoma, no 
obvious microhemorrages to suggest underlying CAA although 
cannot exclude entirely as this may be first presentation. 
Etiology most likely hypertensive, as symptoms began post 
coital. Risk factors notable for A1C 6.8, LDL 76. SBP was 
maintained <150. At time of discharge, exam notable right upper 
extremity weakness (triceps ___, plegic elsewhere in RUE).

TRANSITIONAL ISSUES:
====================
[] goal SBP <150

AHA/ASA Core Measures for Intracerebral Hemorrhage 
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(bleeding risk, hemorrhage, etc.) 
3. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No 
5. Assessment for rehabilitation and/or rehab services 
considered? () Yes - (x) No. If no, why not? (I.e. patient at 
baseline functional status) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO DAILY 
3. Glargine 20 Units Bedtime
4. Januvia (SITagliptin) 50 mg oral DAILY 

 
Discharge Medications:
1.  Glargine 15 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
2.  Donepezil 5 mg PO DAILY  
3.  Januvia (SITagliptin) 50 mg oral DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Intraparenchymal Hemorrhage (left parietal precentral gyrus)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

You were hospitalized due to symptoms of right arm weakness 
resulting from an ACUTE HEMORRHAGIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain leaks 
blood. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
Your risk factors are:  
 1) Diabetes

Please take your medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team
 
Followup Instructions:
___